US07750155B2
To a mixture of ethyl (2E)-3-(5-chloropyrazin-2-yl)acrylate (242.8 mg) in DMA (1.9 mL) was added (3R)-1-(7-oxabicyclo[2.2.1]hept-1-ylmethyl)pyrrolidin-3-amine dihydrochloride (370 mg) and Et3N (796 uL), which was stirred at 100° C. for 24 hours. To the resultant was added H2O, which was extracted with AcOEt. The organic phase was washed with brine, dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-(5-{[(3R)-1-(7-oxabicyclo[2.2.1]hept-1-ylmethyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylate (425 mg) as a brown solid.

reactant | ethyl (2E)-3-(5-chloropyrazin-2-yl)acrylate | 242.8 mg | ClC=1N=CC(=NC1)/C=C/C(=O)OCC | C9H9ClN2O2
reactant | (3R)-1-(7-oxabicyclo[2.2.1]hept-1-ylmethyl)pyrrolidin-3-amine dihydrochloride | 370 mg | Cl.Cl.C12(CCC(CC1)O2)CN2C[C@@H](CC2)N
reactant | Et3N | 796 uL | CCN(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | DMA | 1.9 mL | CC(=O)N(C)C | C4H9NO
product | ethyl (2E)-3-(5-{[(3R)-1-(7-oxabicyclo[2.2.1]hept-1-ylmethyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylate | 425 mg | C12(CCC(CC1)O2)CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)OCC | C20H28N4O3
